US06787543B2
Sodium triacetoxyborohydride (146 mg) was added portionwise to a mixture of 37% aqueous formaldehyde (30 mg) and 3-benzhydryl-1-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]piperazine dihydrochloride in a mixture of dichloromethane (4 ml) and methanol (2 drops) at 0° C. and the whole was stirred at 5° C.˜room temperature overnight. The mixture was partitioned between ethyl acetate and 2N sodium hydroxide. The organic layer was separated, washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The resulting residue was purified by column chromatography on silica gel using a mixed solvent of dichloromethane and methanol (60:1). The fractions containing the objective compound were collected and evaporated under reduced pressure and treated with 4N hydrogen chloride in ethyl acetate solution to give 2-benzhydryl-4-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]-1-methylpiperazine dihydrochloride (32.9 mg) as a colorless powder.

reactant | Sodium triacetoxyborohydride | 146 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | formaldehyde | 30 mg | C=O | CH2O
reactant | 3-benzhydryl-1-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]piperazine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CCN1)CC1=C(C=CC(=C1)N1N=NN=C1C(F)(F)F)OC
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
catalyst | methanol | 2 drops | CO | CH4O
product | 2-benzhydryl-4-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]-1-methylpiperazine dihydrochloride | 32.9 mg | Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)C1N(CCN(C1)CC1=C(C=CC(=C1)N1N=NN=C1C(F)(F)F)OC)C | InChI=1S/C28H29F3N6O.2ClH/c1-35-15-16-36(19-24(35)26(20-9-5-3-6-10-20)21-11-7-4-8-12-21)18-22-17-23(13-14-25(22)38-2)37-27(28(29,30)31)32-33-34-37;;/h3-14,17,24,26H,15-16,18-19H2,1-2H3;2*1H
